US04845079
2(S)-t-Butyloxycarbonylamino-1-cyclohexyl-3(S)-hydroxyhex-5-ene
To a stirred -78° C. solution of Boc-cyclohexylalanine methyl ester (35.0 g, 123 mmol) in anhydrous toluene (200 mL) was added diisobutylaluminum hydride (140M %, 1.5M solution in toluene, 117 mL) at a rate to keep the internal temperature below -60° C. After stirring for an additional 20 minutes at -78° C., allyl magnesium chloride (184 mL of a 2.0M solution in THF) was added. The mixture was allowed to stand at 0° C. for 16 hours and was then quenched with methanol. The mixture was diluted with ether and then washed sequentially with citric acid (ag) and brine. Drying (MgSO4) and evaporating provided an oil which was purified by silica gel chromatography to give the desired compound in 40% yield.

reactant | Boc-cyclohexylalanine methyl ester | 123 mmol, 35.0 g | COC([C@@H](N(C1CCCCC1)C(=O)OC(C)(C)C)C)=O | C15H27NO4
reactant | diisobutylaluminum hydride | 140M, 117 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | allyl magnesium chloride | C(C=C)[Mg]Cl
reactant | THF | C1CCOC1 | C4H8O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
product | 2(S)-t-Butyloxycarbonylamino-1-cyclohexyl-3(S)-hydroxyhex-5-ene | 40% yield | C(C)(C)(C)OC(=O)N[C@@H](CC1CCCCC1)[C@H](CC=C)O | C17H31NO3
